US09421205B2
(b) 2-Methyl-5-((trimethylsilyl)ethynyl)benzamide (I70)
To a mixture of 5-bromo-2-methylbenzamide (I69) (0.292 g, 1.36 mmol), PdCl2(PPh3)2 (0.049 g, 0.070 mmol), triphenylphosphine (0.054 g, 0.21 mmol) and copper iodide (0.036 g, 0.19 mmol) in DMF (3 mL) was added triethylamine (0.570 mL, 4.09 mmol) and trimethylsilylacetylene (0.210 mL, 1.49 mmol) and the resulting mixture heated under microwave irradiation at 120° C. for 25 minutes. The resulting mixture was concentrated under reduced pressure and purified using silica gel column chromatography (0-20% EtOAc/petroleum benzine 40-60° C.) to give the title compound (I70) (0.190 g, 60%); 1H NMR (400 MHz, d6-DMSO) δ 7.80 (s, 1H), 7.40 (m, 3H), 7.24 (d, J=7.9 Hz, 1H), 2.36 (s, 3H), 0.22 (s, 9H).

reactant | 5-bromo-2-methylbenzamide | 1.36 mmol, 0.292 g | BrC=1C=CC(=C(C(=O)N)C1)C | C8H8BrNO
reactant | triphenylphosphine | 0.21 mmol, 0.054 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 4.09 mmol, 0.570 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 1.49 mmol, 0.210 mL | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.070 mmol, 0.049 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.19 mmol, 0.036 g | [Cu](I)I
product | 2-Methyl-5-((trimethylsilyl)ethynyl)benzamide | CC1=C(C(=O)N)C=C(C=C1)C#C[Si](C)(C)C | C13H17NOSi
